US08937092B2
N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide (1.5 equiv), 1-hydroxybenzotriazole (1.5 equiv), and (2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methanamine (1 equiv) are added to a solution of 2-(4-cyano-3-fluorophenyl)propanoic acid (5 equiv) drop-wise triethylamine (2.5 equiv). The reaction mixture is stirred overnight at room temperature. The reaction is quenched with water and extracted with ethyl acetate. The extracted organic layer is dried over magnesium sulfate. After evaporate solvent, purified by column chromatographic purification (ethylacetate:hexane) afforded 2-(4-cyano-3-fluorophenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide.

reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 1.5 equiv | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 1.5 equiv | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methanamine | 1 equiv | C1(=CC(=CC=C1)C1=NC(=CC=C1CN)C(F)(F)F)C | C14H13F3N2
reactant | 2-(4-cyano-3-fluorophenyl)propanoic acid | 5 equiv | C(#N)C1=C(C=C(C=C1)C(C(=O)O)C)F | C10H8FNO2
reactant | triethylamine | 2.5 equiv | C(C)N(CC)CC | C6H15N
product | 2-(4-cyano-3-fluorophenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide | C(#N)C1=C(C=C(C=C1)C(C(=O)NCC=1C(=NC(=CC1)C(F)(F)F)C=1C=C(C=CC1)C)C)F | C24H19F4N3O
